US08859606B2
To a solution of 3-{1-[5-bromo-2-(2-cyclopentylmethoxy)-benzyl]-5-methyl-1H-pyrazol-3-yl}-2-methyl-propionic acid ethyl ester (0.14 g, 0.3 mmol) in dry THF (5 ml) under a N2 atmosphere at −78° C. was added lithium bis(trimethylsislyl)amide (1.8 ml, 1M in THF). The mixture was stirred for 1 hour before addition of a THF solution (1 ml) of MeI (0.255 g, 0.18 mmol). After stirring 3 hours more at −78° C. the mixture was left at RT for 16 hours. The reaction was quenched with sat NH4Cl solution and extracted with EtOAc. The organic layer was washed with brine, dried (MgSO4) and evaporated to dryness. The residue was purified by MPLC (10 g SiO2 cartridge, eluent 95-90% iso-hexane-5-10% EtOAc) to yield 0.033 g of 3-{1-[5-bromo-2-(2-cyclopentylmethoxy)-benzyl]-5-methyl-1H-pyrazol-3-yl}-2,2-dimethyl-propionic acid ethyl ester which was converted to the title compound following the method in Example 1, Step 8.

reactant | 3-{1-[5-bromo-2-(2-cyclopentylmethoxy)-benzyl]-5-methyl-1H-pyrazol-3-yl}-2-methyl-propionic acid ethyl ester | 0.3 mmol, 0.14 g | C(C)OC(C(CC1=NN(C(=C1)C)CC1=C(C=CC(=C1)Br)OCC1CCCC1)C)=O | C23H31BrN2O3
reactant | MeI | 0.18 mmol, 0.255 g | CI | CH3I
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 3-{1-[5-bromo-2-(2-cyclopentylmethoxy)-benzyl]-5-methyl-1H-pyrazol-3-yl}-2,2-dimethyl-propionic acid ethyl ester | 0.033 g | C(C)OC(C(CC1=NN(C(=C1)C)CC1=C(C=CC(=C1)Br)OCC1CCCC1)(C)C)=O | C24H33BrN2O3
